US04472305
Condensation of BocPro-DTrp-GlyOH (1.00 g.) and HDTrp-Leu-MetNH2 trifluoroacetate salt (1.10 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-DTrp-Gly-DTrp-Leu-MetNH2 in 36% yield. De-t-butoxycarbonylation of BocPro-DTrp-Gly-DTrp-Leu-MetNH2 (0.68 g.) using trifluoroacetic acid in methyl ethyl sulfide and ethanedithiol gave HPro-DTrp-Gly-DTrp-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (2:3) salt in 59% yield.

reactant | BocPro-DTrp-Gly-DTrp-Leu-MetNH2 | 0.68 g | N1([C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)NCC(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C45H61N9O8S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methyl ethyl sulfide | C(C)SC | C3H8S
solvent | ethanedithiol | C(C)(S)S | C2H6S2
product | HPro-DTrp-Gly-DTrp-Leu-MetNH2 | N1[C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)NCC(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCCC1 | C41H55N9O6S
